US08357635B2
Preparation of trans-3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid {1-[2-(2,4,6-trichlorophenyl)-cyclopropyl]-ethyl}-methoxy-amide (compound 1.034)
A solution of 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride (24 mg; 0.12 mmol) in acetonitrile (1 ml) was added dropwise to a stirred mixture of N-{1-[2-(2,4,6-trichlorophenyl)-cyclopropyl]-ethyl}-O-methyl-hydroxylamine (24 mg; 0.08 mmol), prepared as described in example P16 and DABCO (14 mg; 0.12 mmol) in acetonitrile (1 ml) at ambient temperature. The reaction mixture was stirred for 2 hours at ambient temperature. The solvent was removed in vacuo and the residue was purified by flash chromatography over silica gel (4 g) (eluent: n-hexane/ethyl acetate 1:2).

reactant | 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride | 0.12 mmol, 24 mg | FC(C1=NN(C=C1C(=O)Cl)C)F | C6H5ClF2N2O
reactant | N-{1-[2-(2,4,6-trichlorophenyl)-cyclopropyl]-ethyl}-O-methyl-hydroxylamine | 0.08 mmol, 24 mg | ClC1=C(C(=CC(=C1)Cl)Cl)C1C(C1)C(C)NOC | C12H14Cl3NO
reactant | DABCO | 0.12 mmol, 14 mg | C1CN2CCN1CC2 | C6H12N2
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
product | trans-3-difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid {1-[2-(2,4,6-trichlorophenyl)-cyclopropyl]-ethyl}-methoxy-amide | ClC1=C(C(=CC(=C1)Cl)Cl)[C@H]1[C@@H](C1)C(C)N(C(=O)C=1C(=NN(C1)C)C(F)F)OC | C18H18Cl3F2N3O2
